US04234594
2(1-Benzyl-3-methyl-5-pyrazolyl)amino-2-imidazoline HCl
1-Acetyl-2-(1-benzyl-3-methyl-5-pyrazolyl)amino-2-imidazoline (12.5 g.) was treated with HCl in methanol as described in Example II to give 7.2 g. of product, mp 198°-199°, (as the HCl salt).

reactant | 1-Acetyl-2-(1-benzyl-3-methyl-5-pyrazolyl)amino-2-imidazoline | 12.5 g | C(C)(=O)N1C(=NCC1)NC1=CC(=NN1CC1=CC=CC=C1)C | C16H19N5O
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | 2(1-Benzyl-3-methyl-5-pyrazolyl)amino-2-imidazoline HCl | Cl.C(C1=CC=CC=C1)N1N=C(C=C1NC=1NCCN1)C | InChI=1S/C14H17N5.ClH/c1-11-9-13(17-14-15-7-8-16-14)19(18-11)10-12-5-3-2-4-6-12;/h2-6,9H,7-8,10H2,1H3,(H2,15,16,17);1H
